US04578381
To 4 g of 2-amino-3-(6-methoxy-2-quinolon-4-yl)propionic acid hydrochloride was added 50 ml of 48%-hydrobromic acid and the mixture was refluxed for 4 hours. After cooling of the reaction mixture, the crystals precipitated were collected by filtration and were dissolved in an aqueous solution of sodium hydroxide. Then the solution was acidified with hydrochloric acid and the crystals precipitate were collected by filtration. Recrystallized from dimethylformamide-water to obtain 2.2 g of 2-amino-3-(6-hydroxy-2-quinolon-4-yl)propionic acid hydrochloride in the form of white powdery product.

reactant | 2-amino-3-(6-methoxy-2-quinolon-4-yl)propionic acid hydrochloride | 4 g | Cl.NC(C(=O)O)CC1=CC(NC2=CC=C(C=C12)OC)=O
reactant | hydrobromic acid | Br | BrH
product | 2-amino-3-(6-hydroxy-2-quinolon-4-yl)propionic acid hydrochloride | 2.2 g | Cl.NC(C(=O)O)CC1=CC(NC2=CC=C(C=C12)O)=O | InChI=1S/C12H12N2O4.ClH/c13-9(12(17)18)3-6-4-11(16)14-10-2-1-7(15)5-8(6)10;/h1-2,4-5,9,15H,3,13H2,(H,14,16)(H,17,18);1H
